US04931444
A mixture of 6.3 parts of N-ethyl-4,5-dihydro-5-methoxy -N-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-2-thiazolamine hemihydrate, 1 part of sodium sulfite and 150 parts of a hydrobromic acid solution 48% in water was stirred for 12 hours at reflux temperature. The reaction mixture was evaporated in vacuo and the residue was dissolved in a mixture of trichloromethane and water. The solution was neutralized with a sodium hydrogen carbonate solution and the produce was extracted with 1500 parts of trichloromethane. The extract was dried, filtered and evaporated in vacuo. The residue was crystallized from 2-propanol. The product was filtered off and dried, yielding 4.5 parts (81.5%) of 4-[4-[4-[ethyl(2-thiazolyl)-amino]phenyl]-1-piperazinyl]phenol; mp. 214.6° C. (compound 3.08).

reactant | N-ethyl-4,5-dihydro-5-methoxy -N-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-2-thiazolamine hemihydrate | O.C(C)N(C=1SC(CN1)OC)C1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)OC.C(C)N(C=1SC(CN1)OC)C1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)OC
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | hydrobromic acid | Br | BrH
solvent | water | O | H2O
product | 4-[4-[4-[ethyl(2-thiazolyl)-amino]phenyl]-1-piperazinyl]phenol | 81.5% | C(C)N(C1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)O)C=1SC=CN1 | C21H24N4OS
